US05574178
A pentane solution (2.6 ml, 4.2 mmol) of 1.6M n-butyllithium was added dropwise to a solution of n-heptyltriphenylphosphonium bromide (1.84 g, 4.2 mmol) in tetrahydrofuran (10 ml) under a nitrogen atmosphere. After stirring the mixture at room temperature for 30 min, a solution of 5-benzyloxy-4-tert-butyl-2-formylbenzofuran (1.0 g, 3.2 mmol) in tetrahydrofuran (10 ml) was added dropwise. Subsequently, the mixture was stirred at room temperature for 30 min, poured into ice water and subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium hydrogen carbonate and water, then dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (chloroform) to afford 5-benzyloxy-4-tert-butyl-2-(1-octenyl)benzofuran [1.14 g (yield, 91%)]. Mass 392(M+), 301, 277, 167, 91, 57

reactant | pentane | 4.2 mmol, 2.6 ml | CCCCC | C5H12
reactant | n-butyllithium | 1.6M | C(CCC)[Li]
reactant | n-heptyltriphenylphosphonium bromide | 4.2 mmol, 1.84 g | [Br-].C(CCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 5-benzyloxy-4-tert-butyl-2-formylbenzofuran | 3.2 mmol, 1.0 g | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C=O)C1C(C)(C)C | C20H20O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-4-tert-butyl-2-(1-octenyl)benzofuran | 1.14 g, 91% | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(O2)C=CCCCCCC)C1C(C)(C)C | C27H34O2
